US06730670B2
7-Bromo-4-methoxy-benzo[b]thiophene-2-carboxylic acid methyl ester
The title compound was prepared as an off-white solid (m.p. 112° C.) according to the literature by treatment of 4-methoxy-benzo[b]thiophene-2-carboxylic acid methyl ester with bromine in chloroform at 0° C. to 20° C.

reactant | 4-methoxy-benzo[b]thiophene-2-carboxylic acid methyl ester | COC(=O)C1=CC2=C(S1)C=CC=C2OC | C11H10O3S
reactant | bromine | BrBr | Br2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 7-Bromo-4-methoxy-benzo[b]thiophene-2-carboxylic acid methyl ester | COC(=O)C1=CC2=C(S1)C(=CC=C2OC)Br | C11H9BrO3S
